US06511974B1
(3-Bromo-5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-[2-chloro-4-(3-methyl-pyrazol-1-yl)-phenyl]-methanone
To a stirred pre-cooled solution of [2-chloro-4-(3-methyl-pyrazol-1-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone (1.61 g) in dichloromethane (25 ml) was added solid N-bromosuccinimide (0.712 g) over 10 minutes at −78° C. The reaction was allowed to warm to −40° C. over thirty minutes. The mixture was diluted with dichloromethane, and extracted sequentially with saturated aqueous sodium bicarbonate (2×100 ml) and water (100 ml). The organic phase was dried over anhydrous sodium sulfate, filtered through a plug of silica gel, and evaporated in vacuo to a residue. Crystallization from diethyl ether yielded 1.47 g of the title compound as a colorless solid, m.p. 148-149° C. (dec); MS (EI), m/z: 480 (M)+.

reactant | [2-chloro-4-(3-methyl-pyrazol-1-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 1.61 g | ClC1=C(C=CC(=C1)N1N=C(C=C1)C)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C23H19ClN4O
reactant | N-bromosuccinimide | 0.712 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (3-Bromo-5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-[2-chloro-4-(3-methyl-pyrazol-1-yl)-phenyl]-methanone | 1.47 g | BrC1=CC=C2CN(C3=C(CN21)C=CC=C3)C(=O)C3=C(C=C(C=C3)N3N=C(C=C3)C)Cl | C23H18BrClN4O
